US05101048
Preparation of 4-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside (Example 22a)
A suspension of 0.5 g (1.4.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide, 0.25 g (2.1.10-3 mol) of 4-hydroxybenzonitrile and 170 mg (2.1.10-3 mol) of zinc oxide (ZnO) in 4 ml of anhydrous toluene and 4 ml of acetonitrile is stirred at 50° C., under an inert atmosphere, in the presence of a molecular sieve (1 nm), for 48 h. The reaction medium is subsequently filtered on Celite® in ethyl acetate and then washed with a 1N aqueous solution of hydrochloric acid, water, a 1N solution of sodium hydroxide and then a saturated solution of NaCl. The solution obtained is dried over sodium sulfate and the solvent is evaporated off under reduced pressure. The residue obtained is purified by chromatography on silica gel using a hexane/ethyl acetate mixture (2/1 v/v) as the eluent to give 194 mg (yield: 35%) of the expected product.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | 0.5 g | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 4-hydroxybenzonitrile | 0.25 g | OC1=CC=C(C#N)C=C1 | C7H5NO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
catalyst | zinc oxide | 170 mg | [O-2].[Zn+2]
product | 4-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 194 mg, yield: 35% | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO7S
